US08492401B2
Preparation of N-(2-(6-(morpholinomethyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-4-phenylthiazole-2-carboxamide
The title compound was prepared according to amide synthesis general method A, utilizing 2-(6-(morpholinomethyl)thiazolo[5,4-b]pyridin-2-yl)aniline and 4-phenylthiazole-2-carboxylic acid. The product was isolated by precipitation during the addition of water, triturated with hot methanol and purified by silica gel chromatography (gradient 0 to 10% methanol in CH2Cl2). MS Calcd for C27H23N5O2S2: 513.13. Found (M+H)+ m/z=514.

reactant | 2-(6-(morpholinomethyl)thiazolo[5,4-b]pyridin-2-yl)aniline | O1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C17H18N4OS
reactant | 4-phenylthiazole-2-carboxylic acid | C1(=CC=CC=C1)C=1N=C(SC1)C(=O)O | C10H7NO2S
solvent | water | O | H2O
product | N-(2-(6-(morpholinomethyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-4-phenylthiazole-2-carboxamide | O1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)NC(=O)C=2SC=C(N2)C2=CC=CC=C2 | C27H23N5O2S2
